US04011319
A solution of 3.58 g. (0.0126 mol) of 7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3 -benzazepine in 15 ml. of formic acid and 10 ml. of formaldehyde is refluxed for 18 hours. The reaction mixture is evaporated to dryness, 20 ml. of 6N hydrochloric acid is added and the solution is again evaporated to dryness to give a liquid. The latter is treated with 20 ml. of 10% sodium hydroxide solution and the mixture is extracted with ether. The dried extract is evaporated to give the liquid 7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3 -benzazepine | 0.0126 mol | COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1OC | C18H21NO2
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 7,8-dimethoxy-3-methyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1OC | C19H23NO2
